US07511066B2
C. Methyl 4-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoylamino]thiophene-3-carboxylate
Using methods substantially equivalent to those described in Example 12-C, methyl 4-[2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoylamino]-thiophene-3-carboxylate was prepared in a 51% yield from 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(dimethyl-amino)benzoic acid and methyl 4-aminothiophene-3-carboxylate.

reactant | methyl 4-[2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoylamino]-thiophene-3-carboxylate | C(C)(C)(C)ON1C(CC(CC1)OC1=C(C(=O)NC=2C(=CSC2)C(=O)OC)C=CC(=C1)N(C)C)=C=O | C25H31N3O6S
reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(dimethyl-amino)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)N(C)C | C19H28N2O5
reactant | methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
product | Methyl 4-[2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(dimethylamino)benzoylamino]thiophene-3-carboxylate | 51% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC=2C(=CSC2)C(=O)OC)C=CC(=C1)N(C)C | C25H33N3O6S
